US04369328
2,6,6-Trimethyl-1,2-epoxy-cyclohexyl methyl ketone
8.3 g (0.05 M) of 2,6,6-trimethyl-cyclohex-1-enyl methyl ketone have been treated with maleic anhydride and hydrogen peroxyde according to Example 1, to give, after extraction and purification as described above, 8.5 g (yield 95%) of the desired product, b.p. 85°/6 Torr:

reactant | 2,6,6-trimethyl-cyclohex-1-enyl methyl ketone | 0.05 M, 8.3 g | CC(=O)C1=C(CCCC1(C)C)C | C11H18O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | hydrogen | [H][H] | H2
product | 2,6,6-Trimethyl-1,2-epoxy-cyclohexyl methyl ketone | 8.5 g, yield 95% | CC(=O)C12C(CCCC1(C)C)(O2)C | C11H18O2
